US05081253
2-[[(2-Chloro-6-fluorophenyl)methyl]-sulfinyl]-1H-imidazo[4,5-c]pyridine
2-[[(2-Chloro-6-fluorophenyl)methyl]thio]-1H-imidazo[4,5-c]pyridine (2.6 g, 0.0089 mol) was dissolved in 140 mL of methanol containing 20 mL of ethyl acetate. An oxidizing solution was prepared by heating 0.99 g (0.0089 mol) of selenium dioxide in 40 mL of methanol and adding 1.01 g (0.0089 mol) of 30% hydrogen peroxide and 0.65 mL of water. The oxidizing solution was added dropwise with stirring to the sulfide solution. The reaction mixture was stirred overnight at room temperature. Approximately 1/2 the solvent was removed in a rotary evaporator and the reaction mixture was chilled in ice. The resulting precipitate was collected and amounted to 1.08 g. An analytical sample, m.p. 180°-183° C., was obtained by recrystallization from ethanol.

reactant | 2-[[(2-Chloro-6-fluorophenyl)methyl]thio]-1H-imidazo[4,5-c]pyridine | 0.0089 mol, 2.6 g | ClC1=C(C(=CC=C1)F)CSC=1NC2=C(C=NC=C2)N1 | C13H9ClFN3S
reactant | selenium dioxide | 0.0089 mol, 0.99 g | [Se](=O)=O | O2Se
reactant | hydrogen peroxide | 0.0089 mol, 1.01 g | OO | H2O2
reactant | water | 0.65 mL | O | H2O
solvent | methanol | 140 mL | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 40 mL | CO | CH4O
product | 2-[[(2-Chloro-6-fluorophenyl)methyl]-sulfinyl]-1H-imidazo[4,5-c]pyridine | ClC1=C(C(=CC=C1)F)CS(=O)C=1NC2=C(C=NC=C2)N1 | C13H9ClFN3OS
